US03932416
4-Chloro-7,8-dimethyl-N(1H-tetrazol-5 -yl)quinaldamide
4-Chloro-7,8-dimethylquinaldic acid (1.72 g) and N,N'-carbonyldiimidazole (1.18 g) in dimethylformamide (15 ml) were stirred for 4 hours at room temperature. 5-Aminotetrazole (1.24 g) was added and the mixture was stirred for 2 days at room temperature. The solid was filtered off and dissolved in a mixture of dimethylformamide and dimethylaminoethanol and the solution was acidified with dilute hydrochloric acid. 4-Chloro-7,8-dimethyl-N(1H-tetrazol-5-yl)quinaldamide was collected, m.p. 262° (d).

reactant | 4-Chloro-7,8-dimethylquinaldic acid | 1.72 g | ClC1=CC(C(=O)O)=NC2=C(C(=CC=C12)C)C | C12H10ClNO2
reactant | 5-Aminotetrazole | 1.24 g | NC1=NN=NN1 | CH3N5
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-7,8-dimethyl-N(1H-tetrazol-5 -yl)quinaldamide | ClC1=CC(C(=O)NC2=NN=NN2)=NC2=C(C(=CC=C12)C)C | C13H11ClN6O
